US08044041B2
4-(2-Cyano-4-methoxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
A mixture of Boc-homopiperazine (483 mg, 2.59 mmol), 2-bromo-5-methoxybenzonitrile (500 mg, 2.36 mmol), Pd2(dba)3 (108 mg, 0.12 mmol), xantphos (205 mg, 0.35 mmol), sodium t-butoxide (666 mg, 7.08 mmol) in degassed anhydrous dioxane (10 mL) was heated at 90° C. for 2 h. The mixture was allowed to cool and filtered through celite. The filtrate was concentrated and purified by chromatography (EtOAc/hexanes) to yield the title compound (691 mg, 92%). m/z (M+1) 318.39.

reactant | Boc-homopiperazine | 2.59 mmol, 483 mg | C(=O)(OC(C)(C)C)N1CCNCCC1 | C10H20N2O2
reactant | 2-bromo-5-methoxybenzonitrile | 2.36 mmol, 500 mg | BrC1=C(C#N)C=C(C=C1)OC | C8H6BrNO
reactant | xantphos | 0.35 mmol, 205 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium t-butoxide | 7.08 mmol, 666 mg | CC(C)([O-])C.[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.12 mmol, 108 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(2-Cyano-4-methoxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 691 mg, 92% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)OC)C#N | C17H23N3O3
